US06447790B1
Synthesis of N-lauroylalanine 2-octyldodecyl ester
N-Lauroylalanine (10 g) and 9.5 g of 2-octyldodecanol were charged in a 200-ml flask, and thereto was added 0.5 g of p-toluenesulfonic acid as the catalyst. The mixture was maintained at 130° C. for 3 hours for reaction. To the reaction mixture was added about 200 ml of a aqueous saturated solution of sodium hydrogen carbonate, and the resulting aqueous layer was removed. The oily layer was further washed with water. The extracted oily layer was well dried by adding 5 g of anhydrous magnesium sulfate thereto, and the magnesium sulfate was then filtered off to give 16 g (yield: 82%) of a liquid product.

reactant | N-Lauroylalanine | 10 g | C(CCCCCCCCCCC)(=O)N[C@@H](C)C(=O)O | C15H29NO3
reactant | 2-octyldodecanol | 9.5 g | C(CCCCCCC)C(CO)CCCCCCCCCC | C20H42O
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-lauroylalanine 2-octyldodecyl ester | 16 g, yield: 82% | C(CCCCCCC)C(COC([C@@H](NC(CCCCCCCCCCC)=O)C)=O)CCCCCCCCCC | C35H69NO3
